US05587389
18. 2-{[[-4-[3-(Imidazol-1-yl)propylthio]-3-methyl-2-pyridinyl]methyl]thio}-1H-benzimidazole
Following the procedure described in Example 1, the reaction of 2-mercapto-1H-benzimidazole with 2-chloromethyl-4-[3-(imidazol-1-yl)propylthio]-3-methylpyridine hydrochloride gives the title compound as a colorless solid after crystallization from diisopropyl ether; m.p. 145°-146° C.

reactant | 2-mercapto-1H-benzimidazole | SC1=NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | 2-chloromethyl-4-[3-(imidazol-1-yl)propylthio]-3-methylpyridine hydrochloride | Cl.ClCC1=NC=CC(=C1C)SCCCN1C=NC=C1
product | 2-{[[-4-[3-(Imidazol-1-yl)propylthio]-3-methyl-2-pyridinyl]methyl]thio}-1H-benzimidazole | N1(C=NC=C1)CCCSC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC=C2)C | C20H21N5S2
